US08236792B2
(2S,4S)-2-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-4-(4-fluoro-phenoxy)-pyrrolidine.
To a solution of (2S,4S)-2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-4-(4-fluoro-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (969 mg, 2.09 mmol) in CH2Cl2 (5 mL) was added trifluoroacetic acid (2 mL). After 1 h, the mixture was concentrated and the residue purified by FCC to give the desired product (665 mg, 88%). MS (ESI): mass calcd. for C20H28FN3O2, 361.22; m/z found, 362.5 [M+H]+. 1H NMR (CDCl3): 6.95-6.90 (m, 2H), 6.78 (dd, J=9.0, 4.3 Hz, 2H), 4.79-4.74 (m, 1H), 3.88 (ddd, J=9.1, 6.3, 6.3 Hz, 1H), 3.81-3.69 (m, 1H), 3.58-3.47 (m, 2H), 3.47-3.37 (m, 2H), 3.08-2.76 (m, 3H), 2.59-2.28 (m, 5H), 2.00 (dd, J=16.1, 7.7 Hz, 2H), 1.95-1.72 (m, 5H), 1.69-1.53 (m, 2H).

reactant | (2S,4S)-2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-4-(4-fluoro-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.09 mmol, 969 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)OC1=CC=C(C=C1)F)C(=O)N1CCN(CCC1)C1CCC1 | C25H36FN3O4
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (2S,4S)-2-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-4-(4-fluoro-phenoxy)-pyrrolidine | 665 mg, 88% | C1(CCC1)N1CCN(CCC1)C(=O)[C@H]1NC[C@H](C1)OC1=CC=C(C=C1)F | C20H28FN3O2
